US08138173B2
1-[2-(4-Benzylpiperazin-1-yl)-2-oxoethyl]-4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinoline (3.05 g, 6.1 mmol) was dissolved in 90 mL of tetrahydrofuran and cooled to 0° C. Lithium aluminum hydride (0.41 g, 10.75 mmol) was added. The mixture was allowed to stir at ambient temperature for 48 hours. A second portion of lithium aluminum hydride (0.17 g, 4.5 mmol) was added, and the mixture was stirred for 24 hours at ambient temperature. 0.6 mL of water, followed by 0.6 mL of 2 N aqueous sodium hydroxide and 1.8 mL of water was added. After stirring at ambient temperature for 30 minutes, the mixture was dried over magnesium sulfate, filtered through a layer of CELITE filter aid, and concentrated under reduced pressure. The residue was purified by automated flash chromatography eluting with a gradient of 4-18% CMA in chloroform, followed by automated flash chromatography eluting with a gradient of 10-67% ethyl acetate in hexanes to provide 0.46 g of 1-[2-(4-benzylpiperazin-1-yl)ethyl]-4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinoline as a yellow solid, mp 75-77° C. MS (ESI) m/z 482 (M+H)+; Anal. calcd for C29H28ClN5: C, 72.26; H, 5.85; N, 14.53. Found: C, 72.00; H, 5.67; N, 14.37.

reactant | 1-[2-(4-Benzylpiperazin-1-yl)-2-oxoethyl]-4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinoline | 6.1 mmol, 3.05 g | C(C1=CC=CC=C1)N1CCN(CC1)C(CC=1N(N=C2C(=NC=3C=CC=CC3C21)Cl)C2=CC=CC=C2)=O | C29H26ClN5O
reactant | Lithium aluminum hydride | 10.75 mmol, 0.41 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 4.5 mmol, 0.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.6 mL | O | H2O
reactant | sodium hydroxide | 2 N, 0.6 mL | [OH-].[Na+]
reactant | water | 1.8 mL | O | H2O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | 1-[2-(4-benzylpiperazin-1-yl)ethyl]-4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinoline | 0.46 g | C(C1=CC=CC=C1)N1CCN(CC1)CCC=1N(N=C2C(=NC=3C=CC=CC3C21)Cl)C2=CC=CC=C2 | C29H28ClN5
